US06291455B1
4-Chloro-6,7-dimethoxyquinazoline hydrochloride (342 mg, 1.3 mmol), and 2-fluoro-5-hydroxyaniline (183 mg, 1.4 mmol) in isopropanol (10 ml) were heated at reflux for 2 hours. The reaction mixture was allowed to cool, the precipitated product collected by filtration, washed with isopropanol and dried to give 6,7-dimethoxy4-(2-fluoro-5-hydroxyanilino)quinazoline hydrochloride (66 mg, 15%) as a solid.

reactant | 4-Chloro-6,7-dimethoxyquinazoline hydrochloride | 1.3 mmol, 342 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | 2-fluoro-5-hydroxyaniline | 1.4 mmol, 183 mg | FC1=C(N)C=C(C=C1)O | C6H6FNO
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 6,7-dimethoxy4-(2-fluoro-5-hydroxyanilino)quinazoline hydrochloride | 66 mg, 15% | Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=CC(=C1)O)F | InChI=1S/C16H14FN3O3.ClH/c1-22-14-6-10-12(7-15(14)23-2)18-8-19-16(10)20-13-5-9(21)3-4-11(13)17;/h3-8,21H,1-2H3,(H,18,19,20);1H
